US07335658B2
6-[4-(4,4,4-TRIFLUOROBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 14, making variations only as required to use 4,4,4-trifluorobutyric acid in place of 4,4,4-trifluoro-2-methylbutyric acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white flaky solid (49% yield). 1H NMR (300 MHz, CDCl3) δ 8.07, 7.85, 7.00, 3.91, 3.82, 3.72, 3.67, 3.50, 2.50-2.67, 1.70, 1.50, 0.95. MS (ES+) m/z 402 (M+1).

reactant | 4,4,4-trifluorobutyric acid | FC(CCC(=O)O)(F)F | C4H5F3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(4,4,4-TRIFLUOROBUTYRYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(CCC(F)(F)F)=O)C | C18H26F3N5O2
